US08278482B2
A solution of 2-(4-(2-aminopropan-2-yl)-1H-1,2,3-triazol-1-yl)-N,N,N-trimethylethanaminium hydrochloride (1.45 g, 5.8 mmol) in methanol (100 ml) was stirred at room temperature. t-Butyl hypochlorite (1.90 g, 17.5 mmol) was added to the mixture, and the combined mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated in vacuo, and purified by prep-HPLC to give 769 mg (42% yield) of 2-(4-(2-(dichloroamino)propan-2-yl)-1H-1,2,3-triazol-1-yl)-N,N,N-trimethylethanaminium chloride. 1H NMR (D2O) δ 8.41 (s, 1 H), 5.10 (t, J=4.7, 2 H), 4.06 (t, J=4.7, 2 H), 3.18 (s, 9 H), 1.83 (s, 6H); MS (ESI+) calculated for C10H20Cl2N5+: 280.11. Found: 280.1 (M+).

reactant | 2-(4-(2-aminopropan-2-yl)-1H-1,2,3-triazol-1-yl)-N,N,N-trimethylethanaminium hydrochloride | 5.8 mmol, 1.45 g | Cl.NC(C)(C)C=1N=NN(C1)CC[N+](C)(C)C
reactant | t-Butyl hypochlorite | 17.5 mmol, 1.90 g | ClOC(C)(C)C | C4H9ClO
solvent | methanol | 100 ml | CO | CH4O
product | 2-(4-(2-(dichloroamino)propan-2-yl)-1H-1,2,3-triazol-1-yl)-N,N,N-trimethylethanaminium chloride | 769 mg, 42% yield | [Cl-].ClN(C(C)(C)C=1N=NN(C1)CC[N+](C)(C)C)Cl | InChI=1S/C10H20Cl2N5.ClH/c1-10(2,16(11)12)9-8-15(14-13-9)6-7-17(3,4)5;/h8H,6-7H2,1-5H3;1H/q+1;/p-1
